.title KiCad schematic
.include "../../hardware/models/nmos_t.txt"
R1 Net-_Q3-D_ Net-_Q1-D_ 22k
R3 Net-_Q3-D_ Net-_Q1-G_ 2.1Meg
XQ1 Net-_Q1-D_ Net-_Q1-G_ GND GND nmos_3p3 w=40u l=1u
C1 Net-_Q1-G_ Net-_C1-Pad2_ 100n
V2 Net-_C1-Pad2_ GND DC SINE(0 1m 100k) AC 0  
R2 Net-_Q1-G_ GND 600k
V1 Net-_Q3-D_ GND DC 3.3 
C4 GND Net-_Q3-S_ 2p
C6 Net-_C6-Pad1_ Net-_Q3-S_ 1u
R9 Net-_Q3-S_ GND 11k
XQ3 Net-_Q3-D_ Net-_Q3-G_ Net-_Q3-S_ GND nmos_3p3 w=20u l=1u
R8 Net-_Q3-G_ GND 1.125Meg
R10 Net-_C6-Pad1_ GND 10k
R7 Net-_Q3-D_ Net-_Q3-G_ 470k
R11 Net-_Q3-D_ Net-_Q4-G_ 2Meg
C5 Net-_Q4-G_ Net-_Q2-D_ 100n
R12 Net-_Q4-G_ GND 675k
XQ4 Net-_Q4-D_ Net-_Q4-G_ GND GND nmos_3p3 w=40u l=1u
C3 Net-_Q3-G_ Net-_Q4-D_ 100n
R13 Net-_Q3-D_ Net-_Q4-D_ 22k
R5 Net-_Q2-G_ GND 675k
R4 Net-_Q3-D_ Net-_Q2-G_ 2Meg
C2 Net-_Q2-G_ Net-_Q1-D_ 100n
XQ2 Net-_Q2-D_ Net-_Q2-G_ GND GND nmos_3p3 w=40u l=1u
R6 Net-_Q3-D_ Net-_Q2-D_ 22k
.end
