.title KiCad schematic
.include "../../hardware/models/nmos_t.txt"
R1 Net-_Q3-D_ Net-_Q1-D_ 39k
R3 Net-_Q3-D_ Net-_Q1-G_ 2Meg
XQ1 Net-_Q1-D_ Net-_Q1-G_ GND GND nmos_3p3 w=40u l=1u
C1 Net-_Q1-G_ Net-_C1-Pad2_ 100n
Rsource vin Net-_C1-Pad2_ 50
V2 vin GND DC SINE(0 0.75m 100k) AC 1  
R2 Net-_Q1-G_ GND 604k
V1 Net-_Q3-D_ GND DC 3.3 
C4 GND Net-_C6-Pad1_ 2p
C6 Net-_C6-Pad1_ Net-_Q3-S_ 1u
R9 Net-_Q3-S_ GND 11k
XQ3 Net-_Q3-D_ Net-_Q3-G_ Net-_Q3-S_ GND nmos_3p3 w=40u l=1u
R8 Net-_Q3-G_ GND 4.7Meg
R10 Net-_C6-Pad1_ GND 10k
R7 Net-_Q3-D_ Net-_Q3-G_ 470k
R11 Net-_Q3-D_ Net-_Q4-G_ 2Meg
C5 Net-_Q4-G_ Net-_Q2-D_ 100n
R12 Net-_Q4-G_ GND 919000
Rdeg q4s GND 4.7k
XQ4 Net-_Q4-D_ Net-_Q4-G_ q4s GND nmos_3p3 w=40u l=1u
C3 Net-_Q3-G_ Net-_Q4-D_ 100n
R13 Net-_Q3-D_ Net-_Q4-D_ 39k
R5 Net-_Q2-G_ GND 604k
R4 Net-_Q3-D_ Net-_Q2-G_ 2Meg
C2 Net-_Q2-G_ Net-_Q1-D_ 100n
XQ2 Net-_Q2-D_ Net-_Q2-G_ GND GND nmos_3p3 w=40u l=1u
R6 Net-_Q3-D_ Net-_Q2-D_ 39k
.end
